US08212041B2
Tri-t-butylphosphonium tetrafluoroborate (0.0377 g, 0.130 mmol), tris(dibenzylideneacetone)dipalladium (0.0594 g, 0.0649 mmol), trimethylsilyl acetylene (1.82 ml, 13.0 mmol), 4-((6-bromo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline (0.500 g, 1.30 mmol) were taken up in dioxane (10 mL) and triethylamine (3 mL). Added CuI. Sealed in a tube and heated at 80° C. for 3 h. Concentrated. Took up in MeOH and added solid potassium carbonate (large excess). Allowed to stir for 30 min. Filtered through a plug of Celite and concentrated. Took up in 10% MeOH in DCM and filtered through a plug of silica gel to afford 4-((6-ethynyl-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline. MS m/z=331.0 [M+1]+. Calc'd for C19H14N4O2: 330.3.

reactant | Tri-t-butylphosphonium tetrafluoroborate | 0.130 mmol, 0.0377 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | trimethylsilyl acetylene | 13.0 mmol, 1.82 ml | C[Si](C)(C)C#C | C5H10Si
reactant | 4-((6-bromo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline | 1.30 mmol, 0.500 g | BrC=1C=CC=2N(C1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C17H13BrN4O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0649 mmol, 0.0594 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | CuI | [Cu]I
product | 4-((6-ethynyl-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline | C(#C)C=1C=CC=2N(C1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C19H14N4O2
